US06335324B1
a) N-Piperidinylcarbonyl chloride
Piperidine (0.3 g, 3.52 mmol) was added to a mixture of phosgene (4.7 ml of 20% phosgene in toluene solution, 8.81 mmol) in methylene chloride (5 ml) at 0° C. The mixture was stirred at 0° C. for 1 hour. The reaction mixture was evaporated in vacuo. The residue was suspended in ether, filtered and the eluents were condensed to obtain a yellow oil. Purification by flash column chromatography (silica gel, 0-20% ethyl acetate/hexane) gave 0.162 g of the title product. IR (film) 1738.9 cm−1.

reactant | Piperidine | 3.52 mmol, 0.3 g | N1CCCCC1 | C5H11N
reactant | phosgene | 8.81 mmol, 4.7 ml | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-Piperidinylcarbonyl chloride | 0.162 g | N1(CCCCC1)C(=O)Cl | C6H10ClNO
